US05969139
3-Amino-5,5-dimethyl-2-cyclohexen-1-one was reacted with 5-methyl-2-thiophenecarboxaldehyde in an analogous manner to that described in Example 1 to give 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(5-methyl-2-thienyl)-1,8(2H,5H)-acridinedione. Crystallization from ethyl acetate/methanol gave a beige crystalline solid of melting point 266-268° C. (decomposition).

reactant | 3-Amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 5-methyl-2-thiophenecarboxaldehyde | CC1=CC=C(S1)C=O | C6H6OS
product | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(5-methyl-2-thienyl)-1,8(2H,5H)-acridinedione | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C=1SC(=CC1)C)=O)C | C22H27NO2S
